US08937176B2
6.01.02.02 4-(6-methoxy-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester
10.8 g piperazine-1-carboxylic acid tert-butyl ester was added to 8.3 g 4-chloro-6-methoxy-pyrimidine and 16 mL triethylamine in 40 mL DMF. The reaction was stirred over night at 60° C. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried with magnesium sulfate and evaporated. The residue was purified chromatography on silica gel (petrolether/ethyl acetate: 8/2) to yield 9.8 g of the desired compound.

reactant | piperazine-1-carboxylic acid tert-butyl ester | 10.8 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 4-chloro-6-methoxy-pyrimidine | 8.3 g | ClC1=NC=NC(=C1)OC | C5H5ClN2O
reactant | triethylamine | 16 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(6-methoxy-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 9.8 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1)OC | C14H22N4O3
